US05254578
5(a) 4-(4-methoxybenzylthio)phenol
A solution of 50.47 g of p-hydroxythiophenol in 250 ml of tetrahydrofuran was added to a suspension of 38.40 g of sodium hydride (as a 55% w/w dispersion in mineral oil) in 380 ml of dimethylformamide, whilst ice-cooling, and under an atmosphere of nitrogen, and the resulting mixture was stirred for 0.5 hour. At the end of this time, a solution of 54.2 ml of p-methoxybenzyl chloride in 120 ml of tetrahydrofuran was added dropwise to the resulting mixture, which was then stirred for 1 hour. The reaction mixture was then neutralized by adding acetic acid, whilst ice-cooling, after which it was poured into water. The mixture was then extracted with ethyl acetate, and the extract was washed with water and with a saturated aqueous solution of sodium chloride, in that order. The resulting solution was then dried, after which the solvent was removed by distillation under reduced pressure, and the residue was purified by column chromatography through silica gel, using a 1:3 by volume mixture of cyclohexane and tetrahydrofuran as the eluent. The eluted product was recrystallized from a mixture of tetrahydrofuran and hexane, to afford 88.99 g of the title compound.

reactant | p-hydroxythiophenol | 50.47 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | sodium hydride | 38.40 g | [H-].[Na+]
reactant | p-methoxybenzyl chloride | 54.2 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 380 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(4-methoxybenzylthio)phenol | 88.99 g | COC1=CC=C(CSC2=CC=C(C=C2)O)C=C1 | C14H14O2S
